US05064863
For the preparation of the amine starting material of Example 10f, α-methyl-2-thiophenethanol, acetyl chloride and aluminum chloride were reacted in methylene chloride to give (RS)-2-(5-acetyl-2-thienyl)-1-methylethyl acetate. The resulting acetate was saponified with sodium hydroxide in methanol to give 5-[(RS)-2-hydroxypropyl]-2-thienyl methyl ketone which was subsequently reacted with p-toluenesulfonyl chloride to give (RS)-2-(5-acetyl-2-thienyl)-1-methylethyl-p-toluenesulfonate, m.p. 101°-103°. With sodium azide in dimethylsulfoxide there was obtained therefrom 5-[(RS)-2-azidopropyl]-2-thienyl methyl ketone which was oxidized with bromine in sodium hydroxide solution to give 5-[(RS)-2-azidopropyl]-2-thiophenecarboxylic acid. With thionyl chloride, there was obtained therefrom the corresponding acid chloride and from this there was prepared with ammonia 5-[(RS)-2-azidopropyl]-2-thiophenecarboxamide, m.p. 79°-80° C., from diethyl ether. Treatment with triphenylphosphine and hydrolysis gave 5-[(RS)-2-aminopropyl]-2-thiophenecarboxamide, m.p. 91°-92° from acetonitrile.

reactant | ammonia 5-[(RS)-2-azidopropyl]-2-thiophenecarboxamide | N(=[N+]=[N-])C(CC1=CC=C(S1)C(=O)N)C.N
reactant | diethyl ether | C(C)OCC | C4H10O
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | acetonitrile | C(C)#N | C2H3N
product | 5-[(RS)-2-aminopropyl]-2-thiophenecarboxamide | NC(CC1=CC=C(S1)C(=O)N)C | C8H12N2OS
